US07420083B2
Synthesis of (4-{3-[1-(4-tert-Butyl-phenyl)-ethylideneaminooxy]-propoxy}-phenyl)-acetic Acid
To a solution of (4-{3-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-propoxy}-phenyl)-acetic acid methyl ester (3.55 mmol) in tetrahydrofuran/ethanol (3/2) (20 mL) was added 1 M sodium hydroxide solution (6 mL, 6 mmol) and the reaction was stirred overnight at room temperature. It was concentrated to a small volume, acidified to pH 1 with 1M hydrochloric acid solution and extracted with ethyl acetate. The combined organics were washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (20/80)+1% formic acid to afford the title compound (0.620 g, 46%) as a light yellow solid. mp=98.7-99.7° C.; mass spectrum (−ESI, M−H) m/z 382. 1H NMR (400 MHz, DMSO-d6); δ 12.20 (bs, 1H), 7.55 (d, 2H), 7.38 (d, 2H). 7.14 (d, 2H), 6.87 (d, 2H), 4.25 (t, 2H), 4.05 (t, 2H), 3.47 (s, 2H), 2.16 (s, 3H), 2.09 (m, 2H), 1.25 (s, 9H). Elemental analysis: Calcd. for C23H29NO4: C, 72.04; H, 7.62; N, 3.65, Found: C, 71.43; H, 7.87; N, 3.52.

reactant | (4-{3-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-propoxy}-phenyl)-acetic acid methyl ester | 3.55 mmol | COC(CC1=CC=C(C=C1)OCCCON=C(C)C1=CC=C(C=C1)C(C)(C)C)=O | C24H31NO4
reactant | sodium hydroxide | 6 mmol, 1 M, 6 mL | [OH-].[Na+]
solvent | tetrahydrofuran ethanol | 20 mL | O1CCCC1.C(C)O
product | (4-{3-[1-(4-tert-Butyl-phenyl)-ethylideneaminooxy]-propoxy}-phenyl)-acetic Acid | 0.620 g, 46% | C(C)(C)(C)C1=CC=C(C=C1)C(C)=NOCCCOC1=CC=C(C=C1)CC(=O)O | C23H29NO4
